model nch nmos (level=49 tox=9n vth0=0.4)
model pch pmos (level=49 tox=9n vth0=-0.4)
subckt cmos_inverter (in_ out vdd vss)
M1 (out in_ vdd vdd) pch L=0.18u W=1u
M2 (out in_ vss vss) nch L=0.18u W=0.5u
ends cmos_inverter
